US05726303
Examples XII-XXVII elucidate the conditions at which lactitol monohydrate and lactitol dihydrate, respectively, may be obtained from aqueous solutions of lactitol. In each instance 200 g lactitol dihydrate was used as the starting material which wasd dissolved in an amount of water varying from 40 g to 50 g at 100° C. Thereupon the solutions obtained were cooled to a temperature varying from 25° C. to 45° C. and seeded with 2 g monohydrate or 2 g dihydrate. The crystallization proper occurred at temperatures between 18° C. and 45° C.

reactant | lactitol monohydrate | C([C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@H]([C@@H](CO)O)[C@@H]([C@H](CO)O)O)O)O)O)O.O
reactant | lactitol dihydrate | C([C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@H]([C@@H](CO)O)[C@@H]([C@H](CO)O)O)O)O)O)O.O.O
product | lactitol | C([C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](O[C@@]([C@H]2O)(CO)O)CO)O)O)O)O | C12H22O11
